US04861769
A mixture of trifluoroacetic acid salt of 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(4-carbamoyl-1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) (1.6 g) and concentrated hydrochloric acid (0.76 ml) in a mixture of methanol (16 ml) and tetrahydrofuran (5 ml) was warmed at 33° to 35° C. for 1.5 hours. The mixture was poured into ice-water, adjusted to pH 2.5 with saturated aqueous solution of sodium bicarbonate and washed with ethyl acetate. The aqueous solution was subjected to column chromatography on a non-ionic adsorption resin "Diaion HP-20" (30 ml). After the column was washed with water (300 ml), 1% isopropyl alcohol (60 ml), and 3% isopropyl alcohol (60 ml) successively, the elution was carried out with 5% isopropyl alcohol (250 ml) and 10% isopropyl alcohol (150 ml) successively. The fractions containing the object compound were collected, combined, concentrated in vacuo to about 100 ml and lyophylized to give 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(4-carbamoyl-1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) (180 mg).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(4-carbamoyl-1-pyridinio)methyl-3-cephem-4-carboxylate | 1.6 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O)C=1N=C(SC1)NC=O | C23H21N7O7S2
reactant | hydrochloric acid | 0.76 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 16 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(4-carbamoyl-1-pyridinio)methyl-3-cephem-4-carboxylate | 180 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O)=NOC1CC1 | C22H21N7O6S2
